US07691893B2
Preparation 38: 3-methyl 1-(phenylmethyl) 4-{[(trifluoromethyl)sulfonyl]oxy}-1,3-piperidinedicarboxylate (P38)
To a stirred solution of 3-methyl 1-(phenylmethyl) 4-oxo-1,3-piperidinedicarboxylate (7.5 g) (P37) in dry DMF (80 ml) under N2 atmosphere at 0° C., NaH 60% on mineral oil (1.13 g) was added. After 10 min stirring at 0° C., 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide (9.64 g) was added and the mixture was stirred for 1 h. The mixture was then quenched with saturated NH4Cl aqueous solution and the phase was extracted with Et2O (2 times). The combined organic layers were washed with saturated NaCl aqueous solution, dried and concentrated under vacuum obtaining the title compound (10 g).

reactant | 3-methyl 1-(phenylmethyl) 4-oxo-1,3-piperidinedicarboxylate | 7.5 g | O=C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC | C15H17NO5
reactant | NaH | [H-].[Na+]
reactant | 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide | 9.64 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 3-methyl 1-(phenylmethyl) 4-{[(trifluoromethyl)sulfonyl]oxy}-1,3-piperidinedicarboxylate | 10 g | FC(S(=O)(=O)OC1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)OC)(F)F | C16H18F3NO7S
